US08076336B2
4-[5-(1,1-Dimethoxyethyl)-2-methoxy-3-trifluoromethylphenyl]morpholine
1-Bromo-5-(1,1-dimethoxyethyl)-2-methoxy-3-trifluoromethylbenzene (O3.004; 700 mg) was initially charged in dioxane (7 ml) and admixed successively with Pd(II) acetate (46 mg), cesium carbonate (2 g), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (118 mg) and morpholine (0.27 ml). Thereafter, the reaction mixture was heated to 90° C. for 7 h and then left to stand overnight. Subsequently, it was filtered and the filtrate was concentrated by rotary evaporation. The residue was purified using silica gel (50 g cartridge, n-heptane/EA gradient). 433 mg of the title compound were obtained.

reactant | 1-Bromo-5-(1,1-dimethoxyethyl)-2-methoxy-3-trifluoromethylbenzene | 700 mg | BrC1=C(C(=CC(=C1)C(C)(OC)OC)C(F)(F)F)OC | C12H14BrF3O3
reactant | cesium carbonate | 2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 118 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | morpholine | 0.27 ml | N1CCOCC1 | C4H9NO
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 4-[5-(1,1-Dimethoxyethyl)-2-methoxy-3-trifluoromethylphenyl]morpholine | 433 mg | COC(C)(OC)C=1C=C(C(=C(C1)N1CCOCC1)OC)C(F)(F)F | C16H22F3NO4
